US04380619
Preparation of 4-(3-Ethynylphenoxy)-N-(3-ethynylphenyl)phthalimide
To the sodium salt of 3-ethynylphenol, prepared from 4.3 g (0.037 mole) of sodium methoxide was added 50 ml of dry N,N-dimethylacetamide, under nitrogen. The mixture was heated to 70° C. and 12.0 g (0.041 mole) of 4-nitro-N-(3-ethynylphenyl)-phthalimide was added. The dark mixture was stirred at 70° C. for 3 hours, then poured into 1.5 liters of ice water. About 100 ml of 1 N sulfuric acid was added to the cold mixture to precipitate the product. The precipitate was collected by filtration, air dried, dissolved in 100 ml of methylene chloride, than again filtered. Chromotography of the filtrate on silica gel using 1:1 hexane:methylene chloride as the eluent gave 5.8 g (44% yield) of product, m.p. 150°-160° C.

reactant | sodium | [Na] | Na
reactant | 3-ethynylphenol | C(#C)C=1C=C(C=CC1)O | C8H6O
reactant | sodium methoxide | 0.037 mole, 4.3 g | C[O-].[Na+]
reactant | 4-nitro-N-(3-ethynylphenyl)-phthalimide | 0.041 mole, 12.0 g | [N+](=O)([O-])C=1C=C2C(C(=O)N(C2=O)C2=CC(=CC=C2)C#C)=CC1 | C16H8N2O4
reactant | sulfuric acid | 1 N, 100 ml | S(O)(O)(=O)=O | H2O4S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
solvent | N,N-dimethylacetamide | 50 ml | CN(C(C)=O)C | C4H9NO
product | 4-(3-Ethynylphenoxy)-N-(3-ethynylphenyl)phthalimide | 5.8 g, 44% yield | C(#C)C=1C=C(OC=2C=C3C(C(=O)N(C3=O)C3=CC(=CC=C3)C#C)=CC2)C=CC1 | C24H13NO3
